* e:\ic_cd4037\ic_cd4037.cir

.include CD4037.sub
* u6  a net-_u6-pad2_ adc_bridge_1
* u7  b net-_u7-pad2_ adc_bridge_1
* u8  c1 net-_u8-pad2_ adc_bridge_1
* u9  c2 net-_u9-pad2_ adc_bridge_1
* u10  c3 net-_u10-pad2_ adc_bridge_1
* u11  net-_u11-pad1_ d1 dac_bridge_1
* u12  net-_u12-pad1_ e1 dac_bridge_1
* u13  net-_u13-pad1_ d2 dac_bridge_1
* u14  net-_u14-pad1_ e2 dac_bridge_1
* u15  net-_u15-pad1_ d3 dac_bridge_1
* u16  net-_u16-pad1_ e3 dac_bridge_1
v1  a gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v2  b gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v3  c1 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v4  c2 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v5  c3 gnd pulse(0 5 0.01n 0.01n 0.01n 15m 30m)
* u17  d1 plot_v1
* u18  e1 plot_v1
* u19  d2 plot_v1
* u20  e2 plot_v1
* u21  d3 plot_v1
* u22  e3 plot_v1
* u1  a plot_v1
* u2  b plot_v1
* u3  c1 plot_v1
* u4  c2 plot_v1
* u5  c3 plot_v1
x1 net-_u8-pad2_ net-_u9-pad2_ net-_u10-pad2_ net-_u7-pad2_ net-_u6-pad2_ net-_u11-pad1_ net-_u12-pad1_ net-_u13-pad1_ net-_u14-pad1_ net-_u15-pad1_ net-_u16-pad1_ CD4037
a1 [a ] [net-_u6-pad2_ ] u6
a2 [b ] [net-_u7-pad2_ ] u7
a3 [c1 ] [net-_u8-pad2_ ] u8
a4 [c2 ] [net-_u9-pad2_ ] u9
a5 [c3 ] [net-_u10-pad2_ ] u10
a6 [net-_u11-pad1_ ] [d1 ] u11
a7 [net-_u12-pad1_ ] [e1 ] u12
a8 [net-_u13-pad1_ ] [d2 ] u13
a9 [net-_u14-pad1_ ] [e2 ] u14
a10 [net-_u15-pad1_ ] [d3 ] u15
a11 [net-_u16-pad1_ ] [e3 ] u16
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth=3
plot v(d1) v(e1)+10 v(d2)+20 v(e2)+30 v(d3)+40 v(e3)+50
plot v(a) v(b)+10 v(c1)+20 v(c2)+30 v(c3)+40
.endc
.end
